* Z:\home\hans\Desktop\Cat-Counter-Measures\Circuit Boards\mainboard\boost.asc
L1 N003 N002 1µ
C1 N004 0 0.625 Rser=0.055
C2 N002 0 2.5
D1 N003 N004 1N5817
M1 N003 N005 0 0 AP9465GEM
V1 N005 0 PULSE(0 10 1u 1n 1n 500n 30u)
V2 N001 0 5
R1 N002 N001 25
R2 N004 0 20k
.model D D
.lib C:\users\hans\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\hans\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 250u
.backanno
.end
